US07687537B2
1-(2,4-Dichlorophenyl)-2-(4-methoxyphenyl)ethanone
413 ml of a 2M solution of the sodium salt of hexamethyldisilazane in THF are cooled to −65° C., under a nitrogen atmosphere, 300 ml of THF are added, followed dropwise by a solution of 55 g of 4-methoxyphenylacetic acid in 70 ml of THF and the mixture is kept stirred for 3 hours at a temperature of less than −45° C. 64.5 g of methyl 2,4-dichlorobenzoate are then added dropwise and the mixture is kept stirred while the temperature is allowed to rise to 0° C. The reaction mixture is poured over an ice/1 liter 2N HCl mixture, extracted with ether, the organic phase is washed with a saturated NaHCO3 solution, dried over Na2SO4 and the solvent is evaporated under vacuum. The residue is chromatographed on silica gel, eluted with heptane and then with the heptane/AcOEt mixture to (90/10; v/v). 29 g of the expected compound are obtained.

reactant | sodium | [Na] | Na
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 4-methoxyphenylacetic acid | 55 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | methyl 2,4-dichlorobenzoate | 64.5 g | ClC1=C(C(=O)OC)C=CC(=C1)Cl | C8H6Cl2O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 1-(2,4-Dichlorophenyl)-2-(4-methoxyphenyl)ethanone | 29 g | ClC1=C(C=CC(=C1)Cl)C(CC1=CC=C(C=C1)OC)=O | C15H12Cl2O2
